US05547919
A mixture of methyl 4-chloro-6-dimethylamino-pyrimidin-5-yl-acetate (22.9 g, 100 mmol), 3-tert.butylphenol (15.0 g, 100 mmol), potassium carbonate (20.7 g, 150 mmol) and a catalytic amount of 18-crown-6 is heated in dimethylformamide (50 ml) at 130° C. for 6 hours. The reaction mixture is diluted with diethyl ether, washed with 2n NaOH and brine, dried (MgSO4) and evaporated to give methyl 4-(3-tert.butylphenoxy)-6-dimethylamino-pyrimidin-5-yl-acetate as a yellow oil (30 g).

reactant | methyl 4-chloro-6-dimethylamino-pyrimidin-5-yl-acetate | 100 mmol, 22.9 g | ClC1=NC=NC(=C1CC(=O)OC)N(C)C | C9H12ClN3O2
reactant | 3-tert.butylphenol | 100 mmol, 15.0 g | C(C)(C)(C)C=1C=C(C=CC1)O | C10H14O
reactant | potassium carbonate | 150 mmol, 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | methyl 4-(3-tert.butylphenoxy)-6-dimethylamino-pyrimidin-5-yl-acetate | 30 g | C(C)(C)(C)C=1C=C(OC2=NC=NC(=C2CC(=O)OC)N(C)C)C=CC1 | C19H25N3O3
